US05643855
Step A: 4-Chloro-2-fluoro-5-(1 -methylethoxy)aniline
A stirring mixture of 5-amino-2-chloro-4-fluorophenol (22.0 g, 136.19 mmol), 2-bromopropane (38.4 mL, 50.25 g, 408.57 mmol) and potassium carbonate (37.6 g, 273.0 mmol) was heated at reflux for 17 h. The reaction mixture was cooled and filtered. The filtrate was evaporated to dryness under reduced pressure. Flash chromatography yielded the title compound of Step A as a brown oil (17.2 g). 1H NMR (CDCl3): δ7.02 (d, 1H), 6.44 (d, 1H) 4.38 (q, 1H), 3.81 (br s,2H), 1.33 (d,6H). IR (cm-1): 3378.4, 3475.6.

reactant | 5-amino-2-chloro-4-fluorophenol | 136.19 mmol, 22.0 g | NC=1C(=CC(=C(C1)O)Cl)F | C6H5ClFNO
reactant | 2-bromopropane | 408.57 mmol, 38.4 mL, 50.25 g | BrC(C)C | C3H7Br
reactant | potassium carbonate | 273.0 mmol, 37.6 g | C([O-])([O-])=O.[K+].[K+]
product | 4-Chloro-2-fluoro-5-(1 -methylethoxy)aniline | 17.2 g | ClC1=CC(=C(N)C=C1OC(C)C)F | C9H11ClFNO
